US07105563B2
A solution of DMF (1.2 mL) in 1,2-dichloroethane (25 mL) at 0° C. was treated with POCl3 (1.5 mL). The resulting solution was warmed to ambient temperature and then treated with a solution of γ-oxo-1-H-pyrrole-3-butanoic acid ethyl ester (2.06 g) in 1,2-dichloroethane (10 mL). The reaction mixture was heated to 55° C. After 3.5 hours, the reaction was quenched with the addition of 1N NaOH (16 mL), and then stirred overnight at ambient temperature. The reaction mixture was extracted with ethyl acetate (150 mL), and the organic layer was dried (MgSO4) and concentrated. The resulting oil was chromatographed on SiO2 (100 g) using 4:1 hexane/ethyl actetate to afford 5-formyl-γ-oxo-1-H-pyrrole-3-butanoic acid ethyl ester (0.54 g).

reactant | DMF | 1.2 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 1.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | γ-oxo-1-H-pyrrole-3-butanoic acid ethyl ester | 2.06 g | C(C)OC(CCC(C1=CNC=C1)=O)=O | C10H13NO3
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 5-formyl-γ-oxo-1-H-pyrrole-3-butanoic acid ethyl ester | 0.54 g | C(C)OC(CCC(C1=CNC(=C1)C=O)=O)=O | C11H13NO4
